US06953857B2
7-Hydroxy-benzo[1,3]dioxole-5-carboxylic acid ethyl ester
5 g (25.2 mmol) of 3,4,5-Trihydroxy-benzoic acid ethyl ester was dissolved in 50 ml of DMF and treated at 0° C. with 13.95 g (101 mmol) of potassium carbonate and 4.39 g (25.2 mmol) of dibromomethane. The reaction solution was heated at 60° C. for 3 h. The solvent was removed under reduced pressure, the residue was taken-up in ethyl acetate and the solution was washed three times with water and twice with saturated aqueous sodium chloride. The organic phase was dried with magnesium sulphate, filtered and the solvent was removed under reduced pressure. The residue was chromatographed on silica gel eluting with n-heptane/ethyl acetate (3/1).

reactant | 3,4,5-Trihydroxy-benzoic acid ethyl ester | 25.2 mmol, 5 g | C(C)OC(C1=CC(=C(C(=C1)O)O)O)=O | C9H10O5
reactant | potassium carbonate | 101 mmol, 13.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | dibromomethane | 25.2 mmol, 4.39 g | BrCBr | CH2Br2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 7-Hydroxy-benzo[1,3]dioxole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(OCO2)C(=C1)O | C10H10O5
